US04497817
After cooling 30 ml of fuming nitric acid to -35° to -45° C., 3 g of 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole was gradually added thereto. The reaction mixture was poured into ice water and the crystals which formed were recovered by filtration and recrystallized from acetic acid to provide 2.2 g of 2-(p-chlorophenyl)-3-nitroimidazo[2,1-b]benzothiazole.

reactant | 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 3 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H9ClN2S
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 2-(p-chlorophenyl)-3-nitroimidazo[2,1-b]benzothiazole | 2.2 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1[N+](=O)[O-])C=CC=C3 | C15H8ClN3O2S
